* Subcircuit XNOR
.subckt XNOR net-_m4-pad2_ net-_m3-pad2_ net-_m2-pad1_ net-_m1-pad1_ net-_m3-pad3_ 
* c:\fossee\esim\library\subcircuitlibrary\xnor\xnor.cir
.include NOT.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m3 net-_m2-pad3_ net-_m3-pad2_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=100u L=100u M=1
m2 net-_m2-pad1_ net-_m1-pad2_ net-_m2-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
m6 net-_m2-pad1_ net-_m4-pad2_ net-_m6-pad3_ net-_m6-pad3_ CMOSN W=100u L=100u M=1
m7 net-_m6-pad3_ net-_m7-pad2_ net-_m3-pad3_ net-_m3-pad3_ CMOSN W=100u L=100u M=1
m4 net-_m1-pad3_ net-_m4-pad2_ net-_m2-pad1_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m8 net-_m1-pad3_ net-_m7-pad2_ net-_m2-pad1_ net-_m1-pad3_ CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
m5 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100u L=100u M=1
x1 net-_m4-pad2_ net-_m1-pad2_ net-_m1-pad1_ net-_m3-pad3_ NOT
x2 net-_m3-pad2_ net-_m7-pad2_ net-_m1-pad1_ net-_m3-pad3_ NOT
* Control Statements

.ends XNOR